US04288442
In a manner analogous to that described in Example 1, from 3-amino-1-[2-hydroxy-3-(4-phenoxymethylpiperidino)-propoxy]-4-methyl-2-propylaminobenzene trihydrochloride and phosgene, there is obtained, in a yield of 54% of theory, 4-[2-hydroxy-3-(4-phenoxymethylpiperidino)-propoxy]-7-methyl-3-propyl-2-benzimidazolinone; m.p. 234°-235° C.

reactant | 3-amino-1-[2-hydroxy-3-(4-phenoxymethylpiperidino)-propoxy]-4-methyl-2-propylaminobenzene trihydrochloride | Cl.Cl.Cl.NC=1C(=C(C=CC1C)OCC(CN1CCC(CC1)COC1=CC=CC=C1)O)NCCC
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
product | 4-[2-hydroxy-3-(4-phenoxymethylpiperidino)-propoxy]-7-methyl-3-propyl-2-benzimidazolinone | yield of 54% | OC(COC1=CC=C(C=2NC(N(C21)CCC)=O)C)CN2CCC(CC2)COC2=CC=CC=C2 | C26H35N3O4
